US08304419B2
Step A: 3-Chloro-5-[(2-chloro-6-fluoro-3-methylphenyl)oxy]benzonitrile
The title compound was prepared as described herein using tBuOK (4.00 ml, 4.00 mmol), 2-chloro-6-fluoro-3-methylphenol (642 mg, 4.00 mmol), 3-chloro-5-fluorobenzonitrile (622 mg, 4.00 mmol) and 18-crown-6 (211 mg, 0.800 mmol) in dimethyl sulfoxide (16 ml) to give the title compound as a white solid (0.94 g, 79%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.33 (1H, s) 7.12-7.19 (2H, m) 7.07 (1H, t, J=8.9 Hz) 6.98 (1H, s) 2.40 (3H, s). LCMS: m/z 294 (M−1).

reactant | tBuOK | 4.00 mmol, 4.00 ml | C(C)(C)(C)O[K]
reactant | 2-chloro-6-fluoro-3-methylphenol | 4.00 mmol, 642 mg | ClC1=C(C(=CC=C1C)F)O | C7H6ClFO
reactant | 3-chloro-5-fluorobenzonitrile | 4.00 mmol, 622 mg | ClC=1C=C(C#N)C=C(C1)F | C7H3ClFN
reactant | 18-crown-6 | 0.800 mmol, 211 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dimethyl sulfoxide | 16 ml | CS(=O)C | C2H6OS
product | 3-Chloro-5-[(2-chloro-6-fluoro-3-methylphenyl)oxy]benzonitrile | 0.94 g, 79% | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1F)C)Cl | C14H8Cl2FNO
